US08044213B2
To a mixture of 0.20 g (0.50 mmole) of 4-(2-chloro-phenyl)-2-(5-formyl-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide (VI.20b), 0.63 g (3.0 mmole) of sodium triacetoxyborohydride and 15 mL of dichloromethane was added 0.12 mL (1.08 mmole) of 1-methylpiperazine. The mixture was stirred at room temperature for 3 days. The mixture was diluted with dichloromethane, washed with saturated aqueous sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with methanol-dichloromethane (gradient 0:100-15:85) to give 0.20 g of 4-(2-chloro-phenyl)-2-[5-(4-methyl-piperazin-1-ylmethyl)-2-nitro-phenylamino]-thiazole-5-carboxylic acid amide (VI.20c).

reactant | 4-(2-chloro-phenyl)-2-(5-formyl-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide | 0.50 mmole, 0.20 g | ClC1=C(C=CC=C1)C=1N=C(SC1C(=O)N)NC1=C(C=CC(=C1)C=O)[N+](=O)[O-] | C17H11ClN4O4S
reactant | sodium triacetoxyborohydride | 3.0 mmole, 0.63 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-methylpiperazine | 1.08 mmole, 0.12 mL | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-(2-chloro-phenyl)-2-[5-(4-methyl-piperazin-1-ylmethyl)-2-nitro-phenylamino]-thiazole-5-carboxylic acid amide | 0.20 g | ClC1=C(C=CC=C1)C=1N=C(SC1C(=O)N)NC1=C(C=CC(=C1)CN1CCN(CC1)C)[N+](=O)[O-] | C22H23ClN6O3S
